US08242133B2
A mixture of 46 mg of 60% sodium hydride (in oil) and 2 ml of DMF was stirred at room temperature, to which a mixture solution of 0.12 g of 2,2,2-trifluoroethanol and 0.5 ml of DMF was added. After 15 minutes, 0.28 g of 6-chloro-2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole was added and stirred at room temperature for one hour. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.26 g of 6-chloro-2-[3-(2,2,2-trifluoroethoxy)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 92”).

reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2,2,2-trifluoroethanol | 0.12 g | FC(CO)(F)F | C2H3F3O
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | 6-chloro-2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | ClC1=CC2=C(N=C(O2)C2=C(C=NC=C2)F)C=C1C(F)(F)F | C13H5ClF4N2O
solvent | Water | O | H2O
product | 6-chloro-2-[3-(2,2,2-trifluoroethoxy)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.26 g | ClC1=CC2=C(N=C(O2)C2=C(C=NC=C2)OCC(F)(F)F)C=C1C(F)(F)F | C15H7ClF6N2O2
